US07531585B2
Synthesis of zinc phenylphosphonate
1.58 g (10.0 mmol) of phenylphosphonic acid (manufactured by Nissan Chemical industries, Ltd.), 2.20 g (10.0 mmol) of zinc acetate dihydrate and 72 g of water were mixed, stirred at 80° C. for 3 hours, then the resulting slurry was filtered, acetic acid in the wet cake was fully washed away with water, and thereafter, dried at 150° C. to obtain 2.17 g (yield 98%) of the aimed product as white crystal. Decomposition temperature: 541° C. The average particle diameter was 4.4 μm with a laser diffraction type particle size distribution meter (manufactured by Seishin Enterprise Co., Ltd., PRO-7000S).

reactant | phenylphosphonic acid | 10.0 mmol, 1.58 g | C1(=CC=CC=C1)P(O)(O)=O | C6H7O3P
reactant | zinc acetate dihydrate | 10.0 mmol, 2.20 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | water | 72 g | O | H2O
product | zinc phenylphosphonate | 2.17 g, yield 98% | C1(=CC=CC=C1)P([O-])([O-])=O.[Zn+2] | InChI=1S/C6H7O3P.Zn/c7-10(8,9)6-4-2-1-3-5-6;/h1-5H,(H2,7,8,9);/q;+2/p-2
